### PR TITLE
[Merged by Bors] - feat: generalize `cocompact_eq`

### PR DESCRIPTION
**Pull request by llllvvuu**
example use case: `cocompact_le` with `integrable_iff_integrableAtFilter_cocompact` from #10248 becomes a way to prove integrability from big-O estimates (e.g. #10258)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Order/Compact.lean [hunk 1]
```diff
@@ -193,6 +193,73 @@ theorem IsCompact.exists_isLUB [ClosedIciTopology α] {s : Set α} (hs : IsCompa
...
+    cocompact α ≤ atTop := by
+  refine fun _ hs ↦ mem_cocompact.mpr <| (isEmpty_or_nonempty α).casesOn ?_ ?_ <;> intro
+  · exact ⟨∅, isCompact_empty, fun x _ ↦ (IsEmpty.false x).elim⟩
+  · obtain ⟨t, ht⟩ := mem_atTop_sets.mp hs
+    refine ⟨Icc ⊥ t, isCompact_Icc, fun _ hx ↦ ?_⟩
+    exact (not_and_or.mp hx).casesOn (fun h ↦ (h bot_le).elim) (fun h ↦ ht _ (le_of_not_le h))
+
+private theorem _root_.cocompact_ge_aux {l : Filter α}
+    (h_aux : (s t : Set α) → t.Nonempty → Nonempty α → IsCompact t → tᶜ ⊆ s → s ∈ l) :
+    cocompact α ≥ l := by
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Order/Compact.lean:223]:
```suggestion
    cocompact α ≥ l := by
```
You should never use `≥` in mathlib (and you should never use `ge` in the statements either). Can you reformulate everything with the inequality swapped?

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 2]
```diff
@@ -579,6 +579,12 @@ instance atBot_isMeasurablyGenerated : (Filter.atBot : Filter α).IsMeasurablyGe
     (measurableSet_Iic : MeasurableSet (Iic a)).principal_isMeasurablyGenerated
 #align at_bot_is_measurably_generated atBot_isMeasurablyGenerated
 
+instance [T2Space α] : IsMeasurablyGenerated (cocompact α) where
+  exists_measurable_subset := by
+    intro _ hs
+    obtain ⟨t, ht, _⟩ := mem_cocompact.mp hs
+    use tᶜ, ht.compl_mem_cocompact, (isOpen_compl_iff.mpr ht.isClosed).measurableSet
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean:586]:
```suggestion
instance [R1Space α] : IsMeasurablyGenerated (cocompact α) where
  exists_measurable_subset := by
    intro s hs
    obtain ⟨t, ht, hts⟩ := mem_cocompact.mp hs
    exact ⟨(closure t)ᶜ, ht.closure.compl_mem_cocompact, isClosed_closure.measurableSet.compl,
      (compl_subset_compl.2 subset_closure).trans hts⟩ 
```
This is more general.

File: Mathlib/Topology/Instances/Real.lean [hunk 3]
```diff
@@ -79,9 +79,6 @@ theorem Real.cocompact_eq : cocompact ℝ = atBot ⊔ atTop := by
   rw [← cobounded_eq_cocompact, cobounded_eq]
 #align real.cocompact_eq Real.cocompact_eq
 
-theorem Real.atBot_le_cocompact : atBot ≤ cocompact ℝ := by simp
-theorem Real.atTop_le_cocompact : atTop ≤ cocompact ℝ := by simp
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/Real.lean:83]: Could you instead deprecate the theorems, with something like
```
@[deprecated] alias Real.atBot_le_cocompact := atBot_le_cocompact -- deprecated on 2024-02-07
@[deprecated] alias Real.atTop_le_cocompact := atTop_le_cocompact -- deprecated on 2024-02-07
```

File: Mathlib/Topology/Algebra/Order/Compact.lean [hunk 4]
```diff
@@ -193,6 +193,73 @@ theorem IsCompact.exists_isLUB [ClosedIciTopology α] {s : Set α} (hs : IsCompa
   IsCompact.exists_isGLB (α := αᵒᵈ) hs ne_s
 #align is_compact.exists_is_lub IsCompact.exists_isLUB
 
+theorem _root_.cocompact_le_atBot_atTop [LinearOrder α] [CompactIccSpace α] :
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Order/Compact.lean:196]:
```suggestion
theorem cocompact_le_atBot_atTop [LinearOrder α] [CompactIccSpace α] :
```
If I'm not mistaken, you're already in the root namespace, so no need to prefix it. Same thing below.

File: Mathlib/Topology/Algebra/Order/Compact.lean [hunk 5]
```diff
@@ -193,6 +193,73 @@ theorem IsCompact.exists_isLUB [ClosedIciTopology α] {s : Set α} (hs : IsCompa
...
+    cocompact α ≤ atBot := by
+  refine fun _ hs ↦ mem_cocompact.mpr <| (isEmpty_or_nonempty α).casesOn ?_ ?_ <;> intro
+  · exact ⟨∅, isCompact_empty, fun x _ ↦ (IsEmpty.false x).elim⟩
+  · obtain ⟨t, ht⟩ := mem_atBot_sets.mp hs
+    refine ⟨Icc t ⊤, isCompact_Icc, fun _ hx ↦ ?_⟩
+    exact (not_and_or.mp hx).casesOn (fun h ↦ ht _ (le_of_not_le h)) (fun h ↦ (h le_top).elim)
+
+theorem _root_.cocompact_le_atTop [LinearOrder α] [OrderBot α] [CompactIccSpace α] :
+    cocompact α ≤ atTop := by
+  refine fun _ hs ↦ mem_cocompact.mpr <| (isEmpty_or_nonempty α).casesOn ?_ ?_ <;> intro
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Order/Compact.lean:215]: No need to do twice the same proof. If you register an instance
```
instance [CompactIccSpace α] : CompactIccSpace (αᵒᵈ) := sorry
```
(close to the definition of the `CompactIccSpace` class), then you can prove this theorem as
`:= cocompact_le_atBot (α := αᵒᵈ)`.

File: Mathlib/Topology/Algebra/Order/Compact.lean [hunk 6]
```diff
@@ -193,6 +193,73 @@ theorem IsCompact.exists_isLUB [ClosedIciTopology α] {s : Set α} (hs : IsCompa
...
+  obtain ⟨a, ha⟩ := ht.exists_isGreatest h_nonempty
+  obtain ⟨b, hb⟩ := exists_gt a
+  exact ⟨b, fun b' hb' ↦ hts <| Classical.byContradiction fun hc ↦
+    ha.2 (not_not_mem.mp hc) |>.trans_lt hb |>.trans_le hb' |>.false⟩
+
+theorem _root_.atBot_atTop_le_cocompact [LinearOrder α] [NoMinOrder α] [NoMaxOrder α]
+    [OrderClosedTopology α] : atBot ⊔ atTop ≤ cocompact α :=
+  sup_le atBot_le_cocompact atTop_le_cocompact
+
+theorem _root_.cocompact_eq_atBot_atTop [LinearOrder α] [NoMaxOrder α] [NoMinOrder α]
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Order/Compact.lean:251]: Could you put a simp attribute on this one, and use it throughout the library instead of `Real.cocompact_eq` and `Int.cocompact_eq` (and deprecate these two statements)?

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean (hunk 2 above)
Comment (llllvvuu) [reply Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean]: thanks!

File: Mathlib/Topology/Algebra/Order/Compact.lean (hunk 5 above)
Comment (llllvvuu) [reply Mathlib/Topology/Algebra/Order/Compact.lean]: Thanks!

**Comment by sgouezel** [comment]
bors r+
Thanks!
